### PR TITLE
[Merged by Bors] - feat(Topology): IsCoveringMapOn ↔ IsCoveringMap restrictPreimage

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Covering/Basic.lean [hunk 1]
```diff
@@ -138,6 +138,47 @@ theorem of_preimage_eq_empty [IsEmpty I] {x : X} {U : Set X} (hUx : U ∈ 𝓝 x
...
+    <| Set.not_nonempty_iff_eq_empty.mp fun ⟨e, he⟩ ↦ isEmptyElim (H ⟨⟨e, he.1⟩, he.2⟩).2) fun _ ↦
+  have hUs : U ⊆ s := fun y hy ↦ by
+    convert Set.mem_preimage.mp (H.symm (⟨y, hy⟩, Classical.arbitrary I)).1.2; simp [← hH]
+  have : Subtype.val '' ((fun e : f ⁻¹' s ↦ f e) ⁻¹' U) = f ⁻¹' U := by ext; simpa using @hUs _
+  ⟨inst, U, hxU, hU, this ▸ hfs.isOpenMap_subtype_val _ hfU, .trans (.symm <| .trans
+    (IsEmbedding.subtypeVal.homeomorphImage _) <| .setCongr this) H, fun x ↦ by
+    dsimp; convert hH ⟨⟨x, hUs x.2⟩, x.2⟩ using 4; exact (Equiv.symm_apply_eq _).mpr rfl⟩
+
+theorem comp_homeomorph {x : X} (h : IsEvenlyCovered f x I) {E'} [TopologicalSpace E']
+    (g : E' ≃ₜ E) : IsEvenlyCovered (f ∘ g) x I :=
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean:170]: How about:
```suggestion
@[simp] theorem comp_homeomorph_iff {x : X} {E'} [TopologicalSpace E'] (g : E' ≃ₜ E) :
    IsEvenlyCovered (f ∘ g) x I ↔ IsEvenlyCovered f x I := by
```

File: Mathlib/Topology/Covering/Basic.lean [hunk 2]
```diff
@@ -138,6 +138,47 @@ theorem of_preimage_eq_empty [IsEmpty I] {x : X} {U : Set X} (hUx : U ∈ 𝓝 x
...
+  have ⟨inst, U, hxU, hU, hfU, H, hH⟩ := h
+  ⟨inst, U, hxU, hU, hfU.preimage g.continuous, .trans (.trans
+    (.setCongr <| by rw [Set.preimage_comp, g.image_symm]) (g.symm.image _).symm) H, fun _ ↦ hH _⟩
+
+theorem homeomorph_comp {x : X} (h : IsEvenlyCovered f x I) {Y} [TopologicalSpace Y] (g : X ≃ₜ Y) :
+    IsEvenlyCovered (g ∘ f) (g x) I :=
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean:181]:
```suggestion
@[simp] theorem homeomorph_comp_iff {x : X} {Y} [TopologicalSpace Y] (g : X ≃ₜ Y) :
    IsEvenlyCovered (g ∘ f) (g x) I ↔ IsEvenlyCovered f x I := by
```

File: Mathlib/Topology/Covering/Basic.lean [hunk 3]
```diff
@@ -297,6 +357,18 @@ theorem constOn_of_comp (hs : IsPreconnected s) (cont : ContinuousOn g s)
     {a a'} (ha : a ∈ s) (ha' : a' ∈ s) : g a = g a' :=
   hf.isSeparatedMap.constOn_of_comp hf.isLocalHomeomorph.isLocallyInjective hs cont he ha ha'
 
+theorem restrictPreimage (t : Set X) : IsCoveringMap (t.restrictPreimage f) := by
+  rw [isCoveringMap_iff_isCoveringMapOn_univ] at hf ⊢
+  exact hf.restrictPreimage t
+
+theorem comp_homeomorph {E'} [TopologicalSpace E'] (h : E' ≃ₜ E) : IsCoveringMap (f ∘ h) := by
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean]: Again can this be `@[simp] theorem comp_homeomorph_iff ...`?

File: Mathlib/Topology/Covering/Basic.lean [hunk 4]
```diff
@@ -297,6 +357,18 @@ theorem constOn_of_comp (hs : IsPreconnected s) (cont : ContinuousOn g s)
...
+  rw [isCoveringMap_iff_isCoveringMapOn_univ] at hf ⊢
+  exact hf.comp_homeomorph h
+
+theorem homeomorph_comp {Y} [TopologicalSpace Y] (h : X ≃ₜ Y) : IsCoveringMap (h ∘ f) := by
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean]: And `@[simp] theorem comp_homeomorph_iff ...` here?

**Review by ocfnash — APPROVED** [review]
I think a few lemmas should be upgraded to `iff` versions but otherwise LGTM.

I note that [IsEvenlyCovered](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Covering/Basic.html#IsEvenlyCovered) should really be a `structure` rather than a giant conjunction. Maybe you might have the appetite to refactor that in a subsequent PR ;-)

bors d+

**Comment by alreadydone** [comment]
Thanks! I added the `iff` versions, but I also keep the original ones for dot notation. If desired I can also add aliases for the other direction (`of_comp_homeomorph` etc.) but I don't expect them to be used often ...
